* OUT — субсхема из нетлиста KiCad + YAML
.subckt OUT AC_CTL AC_REQ_OUT GND
  * Q1: BSS138 (BSS138) — не моделируется
  * Q3: MMBT3904 (MMBT3904) — не моделируется
  * Q4: MMBT3906 (MMBT3906) — не моделируется
  R13 AC_CTL AC_CTL 1k
  R14 AC_CTL AC_CTL 4.7k
  R15 AC_CTL AC_CTL 1k
  R18 AC_CTL AC_CTL 10k
  R19 AC_CTL AC_CTL 100k
  R20 AC_CTL AC_CTL 10k
  R21 AC_CTL AC_REQ_OUT 1k
.ends OUT
